Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][O:2][CH3:3].[CH3:4][O:5][N:6]([CH3:7])[C:8](=[O:9])[c:10]1[n:11][cH:12][c:13]([Cl:14])[cH:15][c:16]1[NH:17][S:18](=[O:19])(=[O:20])[c:21]1[cH:22][cH:23][c:24]([Cl:25])[c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1>>[CH2:1]([O:2][CH3:3])[N:17]([c:16]1[c:10]([C:8]([N:6]([O:5][CH3:4])[CH3:7])=[O:9])[n:11][cH:12][c:13]([Cl:14])[cH:15]1)[S:18](=[O:19])(=[O:20])[c:21]1[cH:22][cH:23][c:24]([Cl:25])[c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1,[CH3:4][O:5][N:6]([CH3:7])[C:8](=[O:9])[c:10]1[n:11][cH:12][c:13]([Cl:14])[cH:15][c:16]1[NH:17][S:18](=[O:19])(=[O:20])[c:21]1[cH:22][cH:23][c:24]([Cl:25])[c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1.[Cl:101][CH2:1][O:2][CH3:3]>>[CH2:1]([O:2][CH3:3])[N:17]([c:16]1[c:10]([C:8]([N:6]([O:5][CH3:4])[CH3:7])=[O:9])[n:11][cH:12][c:13]([Cl:14])[cH:15]1)[S:18](=[O:19])(=[O:20])[c:21]1[cH:22][cH:23][c:24]([Cl:25])[c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1,SN2,"[(17, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[n:3][c:4]2[c:5]([NH2:6])[n:7][cH:8][n:9][c:10]2[n:11]1[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:20][CH2:21][O:22][P:23](=[O:24])([CH2:25][OH:26])[O:27][CH2:28][CH3:29]>>[CH2:1]([c:2]1[n:3][c:4]2[c:5]([NH2:6])[n:7][cH:8][n:9][c:10]2[n:11]1[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:26][CH2:25][P:23]([O:22][CH2:21][CH3:20])(=[O:24])[O:27][CH2:28][CH3:29],[Br:101][CH2:1][c:2]1[n:3][c:4]2[c:5]([NH2:6])[n:7][cH:8][n:9][c:10]2[n:11]1[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:20][CH2:21][O:22][P:23](=[O:24])([CH2:25][OH:26])[O:27][CH2:28][CH3:29].[H-:301].[Na+]>>[CH2:1]([c:2]1[n:3][c:4]2[c:5]([NH2:6])[n:7][cH:8][n:9][c:10]2[n:11]1[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:26][CH2:25][P:23]([O:22][CH2:21][CH3:20])(=[O:24])[O:27][CH2:28][CH3:29],SN2_alcohol(thiol),"[(301, 26.1), ([26.1, 26], 26), (26, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[cH:7][c:8]2[c:9]([n:10]1[CH2:11][C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]2>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[cH:7][c:8]2[c:9]([n:10]1[CH2:11][CH2:12][NH2:13])[CH2:14][CH2:15][CH2:16][CH2:17]2,[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[cH:7][c:8]2[c:9]([n:10]1[CH2:11][C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]2.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[cH:7][c:8]2[c:9]([n:10]1[CH2:11][CH2:12][NH2:13])[CH2:14][CH2:15][CH2:16][CH2:17]2,nitrile_reduction,"[([302, 302.1], 12), ([12, 13], 301), ([302, 302.1], 12), ([12, 13], 302), ([301, 13], 303.1), ([303.1, 303], 303), ([302, 13], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1.[CH3:18][C:19](=[N:20][OH:21])[c:22]1[cH:23][cH:24][cH:25][c:26]([NH2:27])[cH:28]1>>[C:1](=[O:2])([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH:27][c:26]1[cH:25][cH:24][cH:23][c:22]([C:19]([CH3:18])=[N:20][OH:21])[cH:28]1,[Cl:101][C:1](=[O:2])[O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1.[CH3:18][C:19](=[N:20][OH:21])[c:22]1[cH:23][cH:24][cH:25][c:26]([NH2:27])[cH:28]1>>[C:1](=[O:2])([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH:27][c:26]1[cH:25][cH:24][cH:23][c:22]([C:19]([CH3:18])=[N:20][OH:21])[cH:28]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(27, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:2]=[C:1](OC(=O)C(F)(F)F)[C:3]([F:4])([F:5])[F:6].[NH2:7][C@H:8]1[CH2:9][CH2:10][N:11]([CH2:12][CH2:13][c:14]2[cH:15][cH:16][c:17]([N+:18](=[O:19])[O-:20])[cH:21][cH:22]2)[C:23]1=[O:24]>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:7][C@H:8]1[CH2:9][CH2:10][N:11]([CH2:12][CH2:13][c:14]2[cH:15][cH:16][c:17]([N+:18](=[O:19])[O-:20])[cH:21][cH:22]2)[C:23]1=[O:24],[NH2:7][C@H:8]1[CH2:9][CH2:10][N:11]([CH2:12][CH2:13][c:14]2[cH:15][cH:16][c:17]([N+:18](=[O:19])[OH:20])[cH:21][cH:22]2)[C:23]1=[O:24].O=C([O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6])C(F)(F)F>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:7][C@H:8]1[CH2:9][CH2:10][N:11]([CH2:12][CH2:13][c:14]2[cH:15][cH:16][c:17]([N+:18](=[O:19])[OH:20])[cH:21][cH:22]2)[C:23]1=[O:24],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(7, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
